US07776869B2
Synthesis of 2-amino-5-ethynylpyrimidine
Into a 1 L round bottom flask was placed the 2-amino-5-iodopyrimidine (8.0 g, 36.2 mmol), acetonitrile (300 mL), triethylamine (30 mL), TMS acetylene (7.68 g, 78.2 mmol), palladium dichloro-bis-triphenylphosphine (1.26 g, 1.8 mmol), and copper(I) iodide (0.342 g, 1.8 mmol). The vessel was filled with argon gas and allowed to stir at room temperature for 3 hours. The solvent was evaporated and the crude was taken up in methanol (400 mL). Then excess potassium carbonate (10 eq) was added, and the mixture was stirred at room temperature for 1.5 hours. Activated charcoal was added and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure to afford a tan solid, which was added to a solution of 10% methanol in water (200 mL). The resulting precipitate was isolated by filtration, dried in a vacuum oven to constant mass and afforded the title compound as a tan solid. MS m/z=120 [M+H]+. Calc'd for C6H5N3: 119.

reactant | 2-amino-5-iodopyrimidine | 36.2 mmol, 8.0 g | NC1=NC=C(C=N1)I | C4H4IN3
reactant | TMS acetylene | 78.2 mmol, 7.68 g | [Si](C)(C)(C)C#C | C5H10Si
reactant | potassium carbonate | 10 eq | C([O-])([O-])=O.[K+].[K+]
reactant | charcoal | C | CH4
solvent | water | 200 mL | O | H2O
catalyst | copper(I) iodide | 1.8 mmol, 0.342 g | [Cu]I
solvent | methanol | CO | CH4O
solvent | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | 2-amino-5-ethynylpyrimidine | NC1=NC=C(C=N1)C#C | C6H5N3
